US08871792B2
(R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic Acid Ethyl Ester
3-Acetyl-1H-pyrazole-5-carboxylic acid (168 mg, 1.1 mmol) and HCTU (451 mg, 1.1 mmol) were combined in DMF (6.8 mL, 87.2 mmol), and stirred at room temperature. After 15 minutes, DIPEA (570 μL, 3.3 mmol) and (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester (400 mg, 1.1 mmol) were added. The mixture was stirred for 20 minutes at room temperature, then evaporated under reduced pressure to yield the title compound. MS m/z [M+H]+ calc'd for C24H24ClFN4O5, 503.14. found 503.2.

reactant | 3-Acetyl-1H-pyrazole-5-carboxylic acid | 1.1 mmol, 168 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
reactant | HCTU | 1.1 mmol, 451 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 87.2 mmol, 6.8 mL | CN(C)C=O | C3H7NO
reactant | DIPEA | 3.3 mmol, 570 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester | 1.1 mmol, 400 mg | C(C)OC([C@@H](CN(N)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C18H20ClFN2O3
product | (R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic Acid Ethyl Ester | C(C)OC([C@@H](CN(NC(=O)C=1NN=C(C1)C(C)=O)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C24H24ClFN4O5
